US07060836B2
1-Methyl-2-oxo-1,2-dihydro-4-pyridinecarbonitrile
Oxalyl chloride (250 μl, 2.87 mmol) was added to an ice-cooled solution of N,N-dimethylformamide (243 μl, 3.14 mmol) in acetonitrile (3 ml). A suspension of 1-methyl-2-oxo-1,2-dihydro-4-pyridinecarboxamide (J.O.C. 24; 1959; 196) (201.5 mg, 1.32 mmol) and pyridine (470 μl, 5.82 mmol) in acetonitrile (20 ml) was added to the resulting white suspension, and the mixture stirred at room temperature for 18 hours. The mixture was diluted with water (20 ml), and extracted with ethyl acetate (2×100 ml). The combined organic solutions were washed with brine, dried (MgSO4) and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel using ethyl acetate:pentane (75:25), then dichloromethane:methanol (90:10) as eluants, to afford the title compound as a pale yellow solid, 112.3 mg.

reactant | Oxalyl chloride | 2.87 mmol, 250 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 3.14 mmol, 243 μl | CN(C=O)C | C3H7NO
reactant | 1-methyl-2-oxo-1,2-dihydro-4-pyridinecarboxamide | 1.32 mmol, 201.5 mg | CN1C(C=C(C=C1)C(=O)N)=O | C7H8N2O2
reactant | pyridine | 5.82 mmol, 470 μl | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
product | 1-Methyl-2-oxo-1,2-dihydro-4-pyridinecarbonitrile | CN1C(C=C(C=C1)C#N)=O | C7H6N2O
